US05879657
Methyl 3-Amino-5-(t-butoxycarbonylamino)methylbenzoate
A solution of methyl 3-amino-5-aminomethylbenzoate (19.32 g, 39.0 mmol), TEA (7.89 g, 78.0 mmol), and di-t-butyl dicarbonate (8.51 g, 39.0 mmol) in MeOH (350 ml) was allowed to react 24 hours at room temperature and concentrated to yield a colorless solid. Purification by flash chromatography (silica gel; 1:1 hexane:EtOAc) gave the product (9.21 g, 84%) as a colorless solid. 1H NMR (CD3OD): 7.26-7.25 (m, 2H), 6.86-6.85 (m, 1H), 4.16 (s, 2H), 3.88 (s, 3H), 1.48 (s, 9H); MP=57°-65° C. ESI-MS: [M+H]=281.

reactant | methyl 3-amino-5-aminomethylbenzoate | 39.0 mmol, 19.32 g | NC=1C=C(C(=O)OC)C=C(C1)CN | C9H12N2O2
reactant | di-t-butyl dicarbonate | 39.0 mmol, 8.51 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 350 ml | CO | CH4O
product | Methyl 3-Amino-5-(t-butoxycarbonylamino)methylbenzoate | 9.21 g, 84% | NC=1C=C(C(=O)OC)C=C(C1)CNC(=O)OC(C)(C)C | C14H20N2O4
